US04686292
Ethyl 10-ethoxy-5-hydroxy-9-methoxycarbonylbenzo[α]- phenazine-6-carboxylate
To a solution of 895 mg of ethyl 3-hydroxy-1,4-dihydro1,4-dioxo-2-naphthoate in 10 ml of N,N-dimethylformamide was added 620 mg of N,N'-carbonyldiimidazole, and the mixture was stirred at room temperature for 2 hours. To the mixture was added the crude methyl 4,5-diamino-2-ethoxybenzoate in 10 ml of N,N-dimethyl-formamide under ice cooling, and the mixture was stirred at room temperature overnight. To the reaction solution was added 200 ml of ethanol, and then the resulting precipitate was collected by filtration and recrystallized from chloroform - ethanol to give the title compound, m.p. 270°-273° C., yield of 531 mg.

reactant | ethyl 3-hydroxy-1,4-dihydro1,4-dioxo-2-naphthoate | 895 mg | OC1=C(C(C2=CC=CC=C2C1=O)=O)C(=O)OCC | C13H10O5
reactant | methyl 4,5-diamino-2-ethoxybenzoate | NC1=CC(=C(C(=O)OC)C=C1N)OCC | C10H14N2O3
reactant | ethanol | 200 ml | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl-formamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 10-ethoxy-5-hydroxy-9-methoxycarbonylbenzo[α]- phenazine-6-carboxylate | C(C)OC=1C(=CC2=NC3=C(C(=C4C(=C3N=C2C1)C=CC=C4)O)C(=O)OCC)C(=O)OC | C23H20N2O6
